US07851473B2
(3) tert-Butyl 4-[4-(2-chlorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate
A solution of 2-bromo-4-(2-chlorophenyl)-1,3-thiazole (4.48 g, 16.3 mmol), tert-butyl piperazine-1-carboxylate (6.08 g, 32.6 mmol) and potassium carbonate (2.26 g, 16.3 mmol) in dimethylformamide (50 ml) was stirred at 120° C. for 15 hours. Water was poured to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give 4.15 g (66.9%) of the desired product as a solid.

reactant | 2-bromo-4-(2-chlorophenyl)-1,3-thiazole | 16.3 mmol, 4.48 g | BrC=1SC=C(N1)C1=C(C=CC=C1)Cl | C9H5BrClNS
reactant | tert-butyl piperazine-1-carboxylate | 32.6 mmol, 6.08 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | potassium carbonate | 16.3 mmol, 2.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | tert-Butyl 4-[4-(2-chlorophenyl)-1,3-thiazol-2-yl]piperazine-1-carboxylate | 4.15 g, 66.9% | ClC1=C(C=CC=C1)C=1N=C(SC1)N1CCN(CC1)C(=O)OC(C)(C)C | C18H22ClN3O2S
